US03956297
In the manner given in Example 4, 3-methoxy-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepine-11-thione is treated with amino acetaldehyde dimethyl acetal in n-butanol to give [(5H-dibenzo[b,e][1,4]diazepin-11-yl)amino]acetaldehyde dimethyl acetal.

reactant | 3-methoxy-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepine-11-thione | COC=1C=CC2=C(NC3=C(NC2=S)C=CC=C3)C1 | C14H12N2OS
reactant | amino acetaldehyde dimethyl acetal | COC(CN)OC | C4H11NO2
solvent | n-butanol | C(CCC)O | C4H10O
product | [(5H-dibenzo[b,e][1,4]diazepin-11-yl)amino]acetaldehyde dimethyl acetal | COC(CNC=1C2=C(NC3=C(N1)C=CC=C3)C=CC=C2)OC | C17H19N3O2
